US07402581B2
5-Chloro-2,3-dihydroxybenzaldehyde (6.0 g, 34.7 mmol) was dissolved in DMF (100 mL) and to the solution were added 1,2-dibromoethane (8.0 g, 42.5 mmol) and potassium carbonate (10.0 g, 70 mmol). The mixture was stirred at 100° C. for one hour, cooled to room temperature and then diluted with water (200 mL). After extraction twice with ethyl acetate (200 mL) the combined organic solutions were washed with brine and then dried over Na2SO4. The solvent was removed by evaporation and the solid residue treated with methanol. After filtration and drying there was obtained 6.5 g (94%) of 7-chloro-2,3-dihydro-1,4-benzodioxine-5-carbaldehyde. 1H NMR (300 MHz, CDCl3): 4.3-4.4 (m, 4H), 7.1 (d, 1H), 7.3 (d, 1H), 10.3 (s, 1H).

reactant | 5-Chloro-2,3-dihydroxybenzaldehyde | 34.7 mmol, 6.0 g | ClC=1C=C(C(=C(C=O)C1)O)O | C7H5ClO3
reactant | 1,2-dibromoethane | 42.5 mmol, 8.0 g | BrCCBr | C2H4Br2
reactant | potassium carbonate | 70 mmol, 10.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | 7-chloro-2,3-dihydro-1,4-benzodioxine-5-carbaldehyde | 6.5 g, 94% | ClC=1C=C(C2=C(OCCO2)C1)C=O | C9H7ClO3
